US05492910
A solution of dimethylsulfoxide (2,578 ml. 36.3 mmol) in methylene chloride (3 ml) was added dropwise at -78° C. to a stirred solution of oxalyl chloride (1.585 ml, 18.2 mmol) over 5 minutes and stirred at -78° C. for 10 minutes. A solution of (R)-2,3,3-trimethyl-1,2-butanediol in methylene chloride (25 ml) was added dropwise and stirred for 15 minutes at -78° C. Triethylamine (11.51 ml, 82.6 mmol) was added and the reaction was allowed to come to room temperature. The mixture was diluted with additional methylene chloride, washed with 10% sulfuric acid, the combined aqueous phase was extracted with methylene chloride, and the combined organic layer was washed with saturated sodium bicarbonate, dried (magnesium sulfate), and concentrated by distillation at atmospheric pressure to afford 2.15 g of (R)-2,3,3-trimethyl-2-hydroxybutanal as a pale gummy solid.

reactant | dimethylsulfoxide | 36.3 mmol, 2,578 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 18.2 mmol, 1.585 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (R)-2,3,3-trimethyl-1,2-butanediol | C[C@](CO)(C(C)(C)C)O | C7H16O2
reactant | Triethylamine | 82.6 mmol, 11.51 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | (R)-2,3,3-trimethyl-2-hydroxybutanal | 2.15 g | C[C@](C=O)(C(C)(C)C)O | C7H14O2
